US06660753B2
3-(5-Fluoro-2-pyridyl)-5-(3-fluoro-5-(1H-imidazol-4-yl)phenyl) -1,2,4-oxadiazole
To a solution of 3-(5-Fluoro-2-pyridyl)-5-(3-fluoro-5-(1-trityl-1H-imidazol-4-yl)phenyl)-1,2,4-oxadiazole (20.0 mg, 0.04 mmol) in tetrahydrofuran (0.5 ml) added hydrochloric acid (0.14 ml, 2N aqueous). The resulting reaction mixture was heated at reflux for 45 min. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (30 ml), washed successively with sodium hydroxide (30 ml, 1N aqueous), water (30 ml) and brine (30 ml), dried (sodium sulfate), filtered and concentrated in-vacuo. The isolated residue was purified on silica gel using 5% methanol in dichloromethane to yield the title compound (1.7 mg) as a beige solid. 1H-NMR (CDCl3), δ (ppm): 9.64 (bs, 1H), 8.69 (d, 1H), 8.44 (s, 1H), 8.29 (dd, 1H), 7.81 (m, 3H), 7.61 (dt, 1H), 7.54 (s, 1H).

reactant | 3-(5-Fluoro-2-pyridyl)-5-(3-fluoro-5-(1-trityl-1H-imidazol-4-yl)phenyl)-1,2,4-oxadiazole | 0.04 mmol, 20.0 mg | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C35H23F2N5O
reactant | hydrochloric acid | 2N, 0.14 ml | Cl | ClH
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 3-(5-Fluoro-2-pyridyl)-5-(3-fluoro-5-(1H-imidazol-4-yl)phenyl) -1,2,4-oxadiazole | 1.7 mg | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)C=1N=CNC1)F | C16H9F2N5O
